US06982348B2
1-(2-ethylbutyl)-N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl]cyclohexanecarboxamide.
While stirring (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol (0.335 g, 0.927 mmol), 1-(2-ethylbutyl)cyclohexanecarboxylic acid (0.22 g, 1.02 mmol), 4-N,N-dimethylaminopyridine (0.11 g, 0.93 mmol) and 1-hydroxybenzotriazole hydrate (0.14 g, 0.93 mmol) in acetonitrile (10 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.18 g, 0.93 mmol) was added, and the mixture was stirred at 80° C. for 1 day. The reaction solution was diluted with ethyl acetate, washed with aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1-2/1) to give the objective substance.

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | 0.927 mmol, 0.335 g | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H16F5NO2
reactant | 1-(2-ethylbutyl)cyclohexanecarboxylic acid | 1.02 mmol, 0.22 g | C(C)C(CC1(CCCCC1)C(=O)O)CC | C13H24O2
reactant | 1-hydroxybenzotriazole hydrate | 0.93 mmol, 0.14 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.93 mmol, 0.18 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-ethylbutyl)-N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl]cyclohexanecarboxamide | C(C)C(CC1(CCCCC1)C(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OC(C(F)F)(F)F)CC | C30H38F5NO3
